data/oMe_Silver.jsonl
{"reaction_id": "NR-211_1-c1ccc(C(F)(F)F)cc1_2-C(C)(C)C_3-C(C)(C)C_4-C(F)(F)F","level": "hard","name": "Passerini Reaction","reactants_smiles": ["C(=O)(c1ccc(C(F)(F)F)cc1)C(C)(C)C","[C-]#[N+]C(C)(C)C","O=C(O)C(F)(F)F"],"products_smiles": ["O=C(C(F)(F)F)OC(C(=O)NC(C)(C)C)(c1ccc(C(F)(F)F)cc1)C(C)(C)C"],"conditions": "acid","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=[OH+])(c1ccc(C(F)(F)F)cc1)C(C)(C)C","step_weight": 0,"rationale": "Acid protonates the carbonyl oxygen, increasing electrophilicity of the carbon and making it more susceptible to nucleophilic attack."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "OC(c1ccc(C(F)(F)F)cc1)(C(C)(C)C)C(#[N+]C(C)(C)C)","step_weight": 0,"rationale": "The isocyanide carbon, being nucleophilic due to its adjacent positive nitrogen, attacks the activated carbonyl carbon, forming a nitrilium intermediate."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[OH+]=C(C(F)(F)F)OC(=[N]C(C)(C)C)C(c1ccc(C(F)(F)F)cc1)(C(C)(C)C)O","step_weight": 0,"rationale": "The carboxylic acid oxygen attacks the electrophilic nitrilium carbon, favored by resonance stabilization of the resulting intermediate."},{"step": 4,"type": "proton_transfer","subtype": "intramolecular_proton_transfer","intermediate_smiles": "[OH]C2(C(F)(F)F)OC(=[N]C(C)(C)C)C(c1ccc(C(F)(F)F)cc1)(C(C)(C)C)O2","step_weight": 0,"rationale": "Intramolecular proton transfer stabilizes charges and positions the leaving group for the next elimination step."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "O=C(C(F)(F)F)OC(C(=O)NC(C)(C)C)(c1ccc(C(F)(F)F)cc1)C(C)(C)C","step_weight": 0,"rationale": "Elimination of water occurs as the leaving group is stabilized by adjacent carbonyl, yielding the thermodynamically stable α-acyloxy amide."}],"description": "Under acidic conditions, the Passerini reaction proceeds via activation of the carbonyl, nucleophilic attack by isocyanide, and subsequent trapping by a carboxylic acid. Proton transfers and elimination steps drive the formation of the α-acyloxy amide product through stabilized intermediates."}
{"reaction_id": "NR-201_1-S(=O)(=O)c2ccccc2_2-CC","level": "medium","name": "Nazarov Cyclization Reaction","reactants_smiles": ["C(C(S(=O)(=O)c2ccccc2))=CC(=O)C=C(C(CC))","CS(=O)(=O)O"],"products_smiles": ["C(CC)C1=CC(=O)CC1(S(=O)(=O)c2ccccc2)"],"conditions": "H+ OSO2Me","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(S(=O)(=O)c2ccccc2))=CC(=[OH+])C=CC(CC)","step_weight": 0,"rationale": "Protonation of the carbonyl oxygen increases electrophilicity and stabilizes the developing positive charge via resonance, facilitating oxyallyl cation formation under strong acid."},{"step": 2,"type": "pericyclic","subtype": "electrocyclization","intermediate_smiles": "C1(=CC(C([CH+]1)C(S(=O)(=O)c2ccccc2))C(CC))O","step_weight": 0,"rationale": "The oxyallyl cation undergoes a conrotatory 4π-electrocyclization, favored by orbital symmetry and leading to a cyclopentenyl cation stabilized by adjacent substituents."},{"step": 3,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "C1(=CC(C(=C1)C(CC))C(S(=O)(=O)c2ccccc2))O","step_weight": 0,"rationale": "Deprotonation relieves positive charge on the cyclopentenyl cation, driven by formation of a more conjugated alkene system."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(CC)C1=CC(=O)CC1(C(S(=O)(=O)c2ccccc2))","step_weight": 0,"rationale": "Acid-catalyzed tautomerization converts the enol to the more stable conjugated ketone, favored by carbonyl bond strength and extended π-conjugation."}],"description": "Under strong acid conditions, the divinyl ketone is protonated to activate the carbonyl toward cation formation. This enables oxyallyl cation generation, which undergoes a Nazarov 4π-electrocyclization to form a cyclopentenyl cation. Subsequent deprotonation and tautomerization yield the thermodynamically stable cyclopentenone product."}
